US07148357B2
Production of 2-[(2-Bromo-pyridin-4-ylmethyl)-amino]-benzoic Acid
10.0 g (31.2 mmol) of 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester is dissolved in 290 ml of ethanol and mixed with 31.2 ml of 2 M sodium hydroxide solution. After having been stirred overnight at room temperature, the ethanol is drawn off, and the aqueous phase is shaken out with ethyl acetate. The aqueous phase is acidified with concentrated hydrochloric acid. The precipitate that is formed is suctioned off and dried. 5.93 g (62%) of 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid accumulates in the form of a white solid.

reactant | 2-[(2-bromo-pyridin-4-ylmethyl)-amino]-benzoic acid methyl ester | 31.2 mmol, 10.0 g | COC(C1=C(C=CC=C1)NCC1=CC(=NC=C1)Br)=O | C14H13BrN2O2
reactant | sodium hydroxide | 2 M, 31.2 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 290 ml | C(C)O | C2H6O
product | 2-[(2-Bromo-pyridin-4-ylmethyl)-amino]-benzoic Acid | BrC1=NC=CC(=C1)CNC1=C(C(=O)O)C=CC=C1 | C13H11BrN2O2
